US07601714B2
t-Butyl nitrite (2.49 g, 24.2 mmol), copper (II) chloride (2.71 g, 20.2 mmol), and acetonitrile (100 mL) were added to a round-bottom flask. The resulting mixture was cooled to 0° C. (5-Amino-2-trifluoromethoxy-phenyl)-methanol (1.67 g, 8.1 mmol) in acetonitrile (10 mL) was slowly added to the reaction over a period of 5 min. The reaction was warmed up to room temperature and stirred overnight. The mixture was then poured into 20% HCl (100 mL) and extracted with ether (100 mL). The organic layer was washed with 20% HCl (100 mL) and dried over MgSO4. The ether was removed in vacuo and the residue was chromatographed with 4:1 hexanes:EtOAC to give 1.2 g (66%) of (5-chloro-2-trifluoromethoxy-phenyl)-methanol as a yellow solid.

reactant | t-Butyl nitrite | 24.2 mmol, 2.49 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | (5-Amino-2-trifluoromethoxy-phenyl)-methanol | 8.1 mmol, 1.67 g | NC=1C=CC(=C(C1)CO)OC(F)(F)F | C8H8F3NO2
reactant | HCl | 100 mL | Cl | ClH
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
catalyst | copper (II) chloride | 20.2 mmol, 2.71 g | [Cu](Cl)Cl
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | (5-chloro-2-trifluoromethoxy-phenyl)-methanol | 1.2 g, 66% | ClC=1C=CC(=C(C1)CO)OC(F)(F)F | C8H6ClF3O2
